US07812047B2
a) rac-1-Azido-3-(4-chloro-phenoxy)-propane
A solution of sodium azide (0.977 g, 15 mmol) in water (1 ml) was added to a solution of rac-(4-chlorophenoxy)oxirane (1.85 g, 10 mmol) in acetonitrile (11 ml). The mixture was heated to reflux for overnight. Saturated ammonium chloride solution (20 ml) was added and the mixture was extracted with ethyl acetate (3 times 25 ml). The combined organic layers were dried over magnesium sulfate and evaporated. The residue was purified by chromatography (SiO2, ethyl acetate/heptane=1:1) to yield a colorless liquid (1.73 g, 76%); MS (EI): 227.1 ((M+).

reactant | sodium azide | 15 mmol, 0.977 g | [N-]=[N+]=[N-].[Na+]
reactant | rac-(4-chlorophenoxy)oxirane | 10 mmol, 1.85 g | ClC1=CC=C(OC2OC2)C=C1 | C8H7ClO2
reactant | ammonium chloride | 20 ml | [Cl-].[NH4+]
reactant | acetonitrile | 11 ml | C(C)#N | C2H3N
solvent | water | 1 ml | O | H2O
product | rac-1-Azido-3-(4-chloro-phenoxy)-propane | 1.73 g, 76% | N(=[N+]=[N-])CCCOC1=CC=C(C=C1)Cl | C9H10ClN3O
